US05190934
A solution of 1.0 g of ethyl-3-(N-tert.-butoxycarbonylamino)-2-oxopropyl(cyclohexylmethyl)phosphinate in 15 ml of anhydrous dichloromethane under an inert atmosphere at room temperature is treated with 2.1 g of trimethylbromosilane. After stirring for 7 hours the volatile components are removed under reduced pressure to give a pale yellow oil. This oil is dissolved in methanol containing 1% of water and the clear pale yellow solution is stirred overnight at room temperature. The solvent is removed under reduced pressure to afford 3-amino-2-oxo-propyl(cyclohexylmethyl)phosphinic acid hydrobromide, m.p. 180°-182° C. Suspension in ethanol and treatment with propylene oxide affords 3-amino-2-oxo-propyl(cyclohexylmethyl)phosphinic acid, 1H-NMR (D2O): δ (ppm)=4.15 (2H, s, CH2N), 3.10 (2H, d, J=15 Hz, CH2 --P), 1.80 (2H, m, P--CH2), 1.73-1.52 (5H, m, 2×CH2 +CH), 1.34-0.95 (6H, m, 3×CH2).

reactant | ethyl-3-(N-tert.-butoxycarbonylamino)-2-oxopropyl(cyclohexylmethyl)phosphinate | 1.0 g | C(C)C(C(CP([O-])(=O)CC1CCCCC1)=O)NC(=O)OC(C)(C)C
reactant | trimethylbromosilane | 2.1 g | C[Si](Br)(C)C | C3H9BrSi
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-amino-2-oxo-propyl(cyclohexylmethyl)phosphinic acid hydrobromide | Br.NCC(CP(O)(=O)CC1CCCCC1)=O | InChI=1S/C10H20NO3P.BrH/c11-6-10(12)8-15(13,14)7-9-4-2-1-3-5-9;/h9H,1-8,11H2,(H,13,14);1H
